US07700628B2
E. 5-Chloro-N-(5-chloropyridin-2-yl)-2-[2-[2-(dimethylamino)ethoxy]-4-(methylthio)benzoylamino]benzamide hydrochloride
To a mixture of 2-[2-(2-aminoethoxy)-4-(methylthio)benzoylamino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide (1.25 g, 2.47 mmol), paraformaldehyde (312 mg, 10.4 mmol) and methanol (30 mL) was added acetic acid to obtain a pH of 4.0. Sodium cyanoborohydride (311 mg, 4.95 mmol) was added to this mixture. After stirring overnight, the reaction was concentrated, dissolved in 10% MeOH/CHCl3, and passed through an SCX column. The eluent was concentrated and chromatographed on silica gel (1:10 EtOAc:CH2Cl2 to 1:10 MeOH:CH2Cl2) to give impure product. The impure product was dissolved in 5% MeOH/CH2Cl2 and 1 N HCl and stirred for one hour. The mixture was basified with 50% satd sodium carbonate and extracted with CH2Cl2. The organic layer was concentrated and purified by HPLC on a Vydac C18 column [preparative: gradient 20% CH3 CN/(0.01% HCl in H2O) to 80% CH3 CN/(0.01% HCl in H2O) over 6 h on a 5×25 cm column; analytical: 5% CH3 CN/(0.1% TFA in H2O) to 70% CH3 CN/(0.1% TFA in H2O) on a 0.46×25 cm column] to give the title product as a white solid (329 mg, 62%).

reactant | 2-[2-(2-aminoethoxy)-4-(methylthio)benzoylamino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide | 2.47 mmol, 1.25 g | NCCOC1=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)Cl)C=CC(=C1)SC | C22H20Cl2N4O3S
reactant | paraformaldehyde | 10.4 mmol, 312 mg | C=O | CH2O
reactant | Sodium cyanoborohydride | 4.95 mmol, 311 mg | C(#N)[BH3-].[Na+]
reactant | HCl | 1 N | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 30 mL | CO | CH4O
product | 5-Chloro-N-(5-chloropyridin-2-yl)-2-[2-[2-(dimethylamino)ethoxy]-4-(methylthio)benzoylamino]benzamide hydrochloride | 329 mg, 62% | Cl.ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(C1=C(C=C(C=C1)SC)OCCN(C)C)=O | InChI=1S/C24H24Cl2N4O3S.ClH/c1-30(2)10-11-33-21-13-17(34-3)6-7-18(21)23(31)28-20-8-4-15(25)12-19(20)24(32)29-22-9-5-16(26)14-27-22;/h4-9,12-14H,10-11H2,1-3H3,(H,28,31)(H,27,29,32);1H
